data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_367058_1,[C:1](=[C:5]([C:2]([H:19])([H:20])[H:21])[C:8]1([H:15])[N:3]([H:10])[C:4]1([N:6]([H:11])[H:12])[C:9]([N:7]([H:13])[H:14])([H:16])[H:22])([H:17])[H:18]>>[C:1]([C:5]([C:2]([H:19])([H:20])[H:21])=[C:8]([N:3](/[C:4]([N:6]([H:11])[H:12])=[C:9](\[N:7]([H:13])[H:14])[H:16])[H:10])[H:15])([H:17])([H:18])[H:22],54.19529249999727
MR_448653_0,[C:1]([N:4]([C:3]([H:14])([H:15])[H:16])[O:6][C:2]([H:11])([H:12])[H:13])([C:5](=[O:7])[H:10])([H:8])[H:9]>>[C:1]([N:4]([C:3]([H:14])([H:15])[H:16])[C:5](=[O:7])[H:10])([O:6][C:2]([H:11])([H:12])[H:13])([H:8])[H:9],48.21270749997808
MR_51264_0,[C:1]([C:3]([H:16])([H:17])[H:18])([N:7](/[C:5](=[N:4]/[C:2]([H:13])([H:14])[H:15])[N:6]([H:8])[H:9])[H:10])([H:11])[H:12]>>[C:1]([C:3]([H:16])([H:17])[H:18])([N:4]([C:2]([H:13])([H:14])[H:15])/[C:5]([N:6]([H:8])[H:9])=[N:7]/[H:10])([H:11])[H:12],70.61383000002778
MR_219494_0,[C:1]([C:2]([H:12])([H:13])[H:14])([C:3]([C:5](=[O:7])[H:11])=[O:6])([N:4]([H:9])[H:10])[H:8]>>[C:1]([C:2]([H:12])([H:13])[H:14])([N:4]([H:9])[H:10])([C:5]1([H:11])[C:3](=[O:6])[O:7]1)[H:8],48.226512499978895
MR_62086_0,[C:1]([C:3](=[C:4]([H:13])[H:14])[H:9])([O:5][O:6][C:2]([H:10])([H:11])[H:12])([H:7])[H:8]>>[C:1]([O:5][C:3](=[C:4]([H:13])[H:14])[H:9])([O:6][C:2]([H:10])([H:11])[H:12])([H:7])[H:8],62.432484999959854
MR_230710_0,[N:1]([C:2]([O:6][H:10])=[O:7])([C:3]([N:4]([H:11])[H:12])=[O:8])[O:5][H:9]>>[N:1](=[C:2](\[O:6][H:10])[O:7][C:3]([N:4]([H:11])[H:12])=[O:8])\[O:5][H:9],52.34730500002598
MR_210848_1,[C:1]([C:3]([C:4]([C:2]([H:13])([H:14])[H:15])=[C:6]([H:16])[H:17])=[O:8])([N:5]([H:11])[H:12])([O:7][H:9])[H:10]>>[C:1]1([N:5]([H:11])[H:12])([H:10])[C:3]([C:4]([C:2]([H:13])([H:14])[H:15])=[C:6]([H:16])[H:17])([O:7][H:9])[O:8]1,47.69439249996694
MR_307988_1,[C:1]([O:3][O:2][O:4][H:6])([O:5][H:7])([H:8])[H:9]>>[C:1]([O:2][O:4][H:6])([O:3][H:9])([O:5][H:7])[H:8],45.002417499986365
MR_37807_1,[C:1](/[C:2]([N:3]([H:7])[H:8])=[N:5]\[H:9])([C:4](=[O:6])[H:10])([H:11])[H:12]>>[C:1](=[C:4]([O:6]/[C:2]([N:3]([H:7])[H:8])=[N:5]\[H:9])[H:10])([H:11])[H:12],67.71728999999297
MR_24685_2,[C@:1]1([O:6][H:7])([H:8])[C:3]([C:2]([H:10])([H:11])[H:12])([C:4]([H:9])([H:13])[H:14])[O:5]1>>[C:1]([O:5][C:3]([C:2]([H:10])([H:11])[H:12])=[C:4]([H:13])[H:14])([O:6][H:7])([H:8])[H:9],54.793927499983965
MR_543772_1,[C:1]1([O:5][H:8])([N:6]=[C:3]([H:10])[H:11])[C:2](=[C:4]([H:12])[H:13])[N:7]1[H:9]>>[C:1](\[C:2](=[C:4]([H:12])[H:13])[O:5][H:8])([N:6]=[C:3]([H:10])[H:11])=[N:7]/[H:9],65.88687249997733
MR_603589_0,[C:1]([C:2]([H:14])([H:15])[H:16])([N:5]([H:12])[H:13])([O:6][N:3]([H:8])[H:9])[O:7][N:4]([H:10])[H:11]>>[C:1]([C:2]([H:14])([H:15])[H:16])([N:3]([H:8])[H:9])([N:5]([H:12])[H:13])[O:6][O:7][N:4]([H:10])[H:11],54.09677500003198
MR_492206_0,[C:1]([C:2]([O:6][H:8])([H:15])[H:16])(/[C:3]([N:5]([H:12])[H:13])=[N:7]\[H:14])([N:4]([H:10])[H:11])[H:9]>>[C:1](/[C:3]([C:2]([O:6][H:8])([H:15])[H:16])=[N:7]/[H:14])([N:4]([H:10])[H:11])([N:5]([H:12])[H:13])[H:9],61.048847499993286
MR_474073_1,[C:1]1([O:6][C:3]([H:11])([H:12])[H:13])([H:9])[C:2]([O:7][H:8])([H:10])[O:5][O:4]1>>[C:1]1([C:2]([O:6][C:3]([H:11])([H:12])[H:13])([O:7][H:8])[H:10])([H:9])[O:4][O:5]1,64.28235499999772
MR_455452_1,[C:1]([C:6]([C:2]([C:4]([H:17])([H:18])[H:19])([C:5]([H:16])([H:20])[H:21])[H:12])([C:3]([H:13])([H:14])[H:15])[O:9][H:11])(=[O:7])[O:8][H:10]>>[C:1]([C:3]([H:13])([H:14])[H:15])([C:6]([C:2]([C:4]([H:17])([H:18])[H:19])([C:5]([H:16])([H:20])[H:21])[H:12])=[O:9])([O:7][H:11])[O:8][H:10],50.50057250001586
MR_459092_0,[C:1]([N:3]([C:2]([H:14])([H:15])[H:16])[O:7][N:4]([H:10])[H:11])([N:5]([H:12])[H:13])([N:8]=[C:6]([H:17])[H:18])[H:9]>>[C:1]([N:3]([C:2]([H:14])([H:15])[H:16])[N:8]=[C:6]([H:17])[H:18])([N:5]([H:12])[H:13])([O:7][N:4]([H:10])[H:11])[H:9],58.8400474999699
MR_32966_1,[C:1]1([C:2]([H:9])([H:10])[H:11])([H:8])[C:4]([C:3]([H:12])([H:13])[H:14])([O:6][H:7])[C:5]1([H:15])[H:16]>>[C:1]([C:2]([H:9])([H:10])[H:11])([C:4]([C:3]([H:12])([H:13])[H:14])=[C:5]([H:15])[H:16])([O:6][H:7])[H:8],68.52864749997764
MR_631581_0,[C:1]([C:2]([H:12])([H:13])[H:14])([C:7]([C:5]([H:21])([H:22])[H:23])([C:6]([C:4]([H:18])([H:19])[H:20])=[O:10])[N:9]([C:3]([H:15])([H:16])[H:17])[H:11])=[O:8]>>[C:1]1([C:2]([H:12])([H:13])[H:14])([O:8][H:11])[C:7]([C:5]([H:21])([H:22])[H:23])([C:6]([C:4]([H:18])([H:19])[H:20])=[O:10])[N:9]1[C:3]([H:15])([H:16])[H:17],59.39601249999299
MR_554841_0,[C:1]1([H:11])([H:12])[C:2]([H:13])([H:14])[N:5]1[C:6](=[C:7]([C:3]([H:15])([H:16])[H:20])[C:4]([H:17])([H:18])[H:19])[N:8]([H:9])[H:10]>>[C:1]1([H:11])([H:12])[C:2]([H:13])([H:14])[C:7]([C:3]([H:15])([H:16])[H:20])([C:4]([H:17])([H:18])[H:19])[C:6]([N:8]([H:9])[H:10])[N:5]1,51.74365000001629
MR_292482_0,[C:1]([C:3]([O:5][H:9])=[O:7])([C:4]([C:2]([H:12])([H:13])[H:14])=[O:8])([O:6][H:10])[H:11]>>[C:1]([C:3]([C:4]([C:2]([H:12])([H:13])[H:14])=[O:8])([O:5][H:9])[O:7][H:10])(=[O:6])[H:11],52.053635000018375
